US07074819B2
Step 1) Synthesis of 4-{3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propynyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman-4-ol
The title compound was prepared from 7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman-4-one and 3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propyn according to the same method for the synthesis of 4-[9-(t-butyldimethylsilyloxy)1-nonynyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman.

reactant | 7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman-4-one | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)=O | C20H22O6
reactant | 3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propyn | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(OCC#C)C=C1 | C18H28O2Si
reactant | 4-[9-(t-butyldimethylsilyloxy)1-nonynyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C33H48O3SSi
product | 4-{3-[4-(3-t-butyldimethylsilyloxypropyl)phenoxy]-1-propynyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman-4-ol | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(OCC#CC2(C(COC3=CC(=CC=C23)OCOC)(C)C2=CC=C(C=C2)OCOC)O)C=C1 | C38H50O8Si
